Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Patient recorded as having No Known Allergies to Drugs
 
Attending: ___.
 
Chief Complaint:
Shortness of breath and dyspnea on excertion.
 
Major Surgical or Invasive Procedure:
Bronchoscopy.
Fine Needle Aspiration of right axilary lymph node.
 
History of Present Illness:
Mr. ___ is a ___ y/oM with h/o MDS diagnosed ___ that 
transformed to AML-M5 diagnosed on bone marrow ___. He 
underwent induction with 7+3 of cytarabine and idarubacin on 
___. He was discharged on ___. Bone marrow bx/aspiration 
on ___ just prior to discharge returned with relapsed AML.  
He is was readmitted from ___ for HiDAC re-induction.  
.
His hospital course in ___ was c/b aspergillous and 
nocardia pneumonia (diagnosed by CT guided bx), for which he was 
treated with several antibiotics and discharged on a simplified 
regimen of TMP-SMX 240-1200mg QID and voriconazole 300mg PO q12. 
He also had C. diff and was treated with PO vancomycin. 
.
During his most recent hospital course in ___, he was 
kept in house for his nadir given his concomittent infections. 
His counts remained low up until day 19 raising concern for 
continued disease.  A bone marrow biopsy was performed on ___ 
(D+22) which showed residual disease.  In regards to his 
infection, his aspergillus and nocardia infections worsened 
during his neutropenia and his PO regimen of Bactrim and 
voriconazole was broadened to Voriconazole, Meropenem, 
Moxifloxacin, and Micafungin. On ___, the patient experience 
neutropenic fever following Ara C therapy and vancomycin was 
added to his regimen and stopped on ___, but he was discharged 
on vancomycin given his immunosuppressed state and continued abx 
use.  He was discharged on voriconazole and bactrim with 
instructions to f/u with Dr. ___ in 2 weeks. 
.
Over the last 1.5 weeks has had increasing SOB with minimal 
exertion.  Has chronic cough productive of whitish sputum, but 
this has increased.  No fevers/chills or sick contacts. No chest 
pain, diaphoresis, jaw pain, palpatations, pleuritic discomfort, 
calf pain, increased ___ swelling.  + weight gain but 
intentional. Per call in he was hypoxic to 88% on RA at home.  
Presented to ___ where CXR done and showed ? worsened 
right sided infiltrate.  Per patient, also had CT scan done 
there last ___ and report is in chart showing worsening of 
disease.  Upon arrival to our ED, 98.2, 73, 102/61, 95% on 4L.   
EKG with NSR, LAD, TWF, no signficant change from prior.  CE's x 
1 negative. 

ROS: nevative for fevers, chills, URI sxs, nausea, emesis, 
abdominal pain, calf pain, ___ edema, myalgias, melena, 
hematochezia, dysuria.  SOB as above.

 
Past Medical History:
Oncologic History:
Patient with MDS diagnosed in ___ and transformed to AML-M5 
in ___. Pt underwent induction with 7+3 of cytarabine and 
iarubacin on ___. Bone marrow prior to discharge returned 
with AML relapse. Patient then underwent HiDAC re-induction 
(___).
.
Past Medical History:
1)CAD s/p angioplasty in ___.
2)MDS since ___.
3)AML ___.
4)C.Diff on PO vancomycin.
5)Nocardia, Aspergillous pneumonia.
6)Epistaxis.
 
Social History:
___
Family History:
Coronary artery disease.
 
Physical Exam:
Vitals: 96.9, 72, 103/56, 20, 94% 4L

GENERAL:  NAD, speaking in full sentences, very thin caquectic 
patient
HEENT:  PEERLA, anicteric, moderately dry mucous membranes, 
pharynx without any excudate or transudate visible, no lymph 
nodes palpable in submandibular area, normal eye movements, nose 
without signs of bleeding or mucous.
NECK: Thyroid normal size, palpable, no bruits, good carotid 
pulses, lumphadenopathy palpable behind clavicle, JVD not 
visible.
LUNGS:  CTAB
HEART:  RRR, no MRGs
BACK: Non supra-spinal tenderness; multiple lymphnodes palpable 
in both axilas; non-tender, movable, like grapes.
ABDOMEN:  Soft, mildy distended, normal bowel sounds, 
non-tender, no hepato-splenomegaly. Only very mild pain on deep 
palpation.
EXTREMITIES:  No rash, no edema, no calf pain. Inguianl lymph 
nodes palpable.
SKIN: Purpuric rash in forearms, stable.
 
Pertinent Results:
On Admission:
___ 12:45AM   WBC-12.5*# RBC-3.18* HGB-8.6* HCT-26.0* 
MCV-82 MCH-27.1 MCHC-33.2 RDW-16.9*
___ 12:45AM   NEUTS-21* BANDS-0 ___ MONOS-7 EOS-0 
BASOS-0 ATYPS-6* ___ MYELOS-0 PROMYELO-1* BLASTS-34*
___ 12:45AM   HYPOCHROM-3+ ANISOCYT-1+ POIKILOCY-1+ 
MACROCYT-1+ MICROCYT-1+ POLYCHROM-1+
___ 12:45AM   PLT SMR-NORMAL PLT COUNT-255#
___ 12:45AM   GLUCOSE-81 UREA N-24* CREAT-1.1 SODIUM-136 
POTASSIUM-4.9 CHLORIDE-105 TOTAL CO2-18* ANION GAP-18
___ 12:45AM   ALT(SGPT)-13 AST(SGOT)-27 LD(LDH)-570* 
CK(CPK)-21* ALK PHOS-67 TOT BILI-0.2
___ 12:45AM   CK-MB-NotDone proBNP-423*
___ 12:45AM   CALCIUM-8.6 PHOSPHATE-4.9* MAGNESIUM-1.4*
___ 09:19AM   ___
___ 12:48AM   LACTATE-1.3

CXR Upon admission:
Lower lobe airspace opacification is increased in comparison to 
___, and worrisome for pneumonia. The right upper lobe 
cavitary lesion is slightly improved, with less parenchymal 
abnormality of the lateral aspect of the lesion.  The hila are 
progressively enlarged. Interstial prominence and vascular 
indistinctness are suggestive of interstitial edema, however, 
findings could be due to widespread interstitial pneumonia, such 
as pneumocystis. The right central venous catheter terminates 
within the lower SVC, unchanged. Cardiac silhouette is stable.

CT Upon Admission:
FINDINGS: 
No filling defect in pulmonary artery branches suggestive of 
pulmonary 
embolism. Again seen are large cavitary lesions in both lungs. 
Lesion 1, located in right upper lobe (3:33), has significantly 
increased in size from ___ to ___, and the overall size is 
stable since then. The cavitary portion of the lesion has 
decreased in size but the wall is thicker, and on today's exam, 
there is more extension to the direction of the hilum. Lesion 2 
located in right upper lobe (3:52) was new in ___, had 
increased in size and cavitated in ___ the cavity 
diameter has decreased but the wall is thicker both on ___ and today. Lesion 3 located in posterior basal left lower 
lobe (3:85) has similar behaviour as lesion 2: it appeared as a 
new lesion in ___, has significantly progressed in size in 
___, stable in size subsequently,since then, though 
developing small cavities growing since  ___. Lesion 4 
(3:51), a new finding since ___, is an area of ground- 
glass opacity in the anterior segment of right upper lobe that 
could represents an area of hemorrhage or infection. An area of 
ground glass opacity in the left upper lobe on ___ has 
resolved on today's study, and could have represented an area of 
aspiration. Greatly enlarged, numerous mediastinal and hilar 
lymph nodes (up to 19mm in the subcarinal station and 23mm in 
the left hilus) first grew from ___ to ___, stabilized until 
___, but have subsequently grown. Heart size is normal 
despite coronary artery calcifications. The aorta is 
unremarkable. A central line traverses the right jugular vein 
terminating in the cavoatrial junction. Pleural calcifications 
trace the right lateral costal and diaphragmatice surfaces. 
There is no pleural effusion. Small pericardial effusion is 
stable since ___. Centrilobular and paraseptal emphysema 
is again noted. Moderate splenomegaly is persistent. 
Degenerative changes are present in the thoracic spine. 
IMPRESSION: 
1. Negative examination for pulmonary embolism. 
2. Multifocal necrotizing infection. Due to varied onset and 
behaviour, there is probably more than one pathogen. 
3. Progressive severe central adenopathy. 
4. New area of ground-glass opacity in right lower lobe that 
could represent another infection or hemorrhage. 
5. Stable small pericardial effusion. 
6. Stable pleural calcifications. 
7. Splenomegaly, partially imaged 

Latest CT-chest on (___):
No filling defect in pulmonary artery branches suggestive of 
pulmonary 
embolism. Compared to prior study done the day before, ___, the lung abnormalities are unchanged: Right upper lobe 
cavitary lesion, diffuse right upper lobe consolidation, as well 
as ill-defined ground glass opacity and nodular 
consolidation/mass of the left lower lobe and partially cavitary 
left lower lobe mass; focal consolidation in right middle lobe 
also unchanged. No evidence of pleural effusions. Persistent 
small unchanged pericardial effusion. Stable hilar, mediastinal, 
and axillary lymphadenopathy. No suspicious lytic or blastic 
osseous lesion is identified. Splenomegaly is partially imaged. 
IMPRESSION: 
1. No evidence of pulmonary embolism. 
2. Unchanged appearance of lung opacities, masses, and cavities. 
No pleural 
effusion at present study. 
3. Unchanged extensive hilar, mediastinal, and axillary 
lymphadenopathy. 

Latest CT-pelvis/abdomen:
1. Diffuse patchy ground-glass attenuation in the visualized 
lung bases, with nodular opacities and cavitary process are 
similar to that previously seen on CT abdomen/pelvis of ___ 
except to note slight increase in coalescence of nodular 
opacities along the left lateral sulcus. 
  
2. Bulky portal, retroperitoneal, mesenteric, iliac and inguinal 
adenopathy as seen on ___, except to note some increased 
stranding surrounding a midabdominal mesenteric lymph node 
conglomerate, with interval development of regions of 
hypoattenuation, consistent with regions of necrosis. 
Superimposed infection is a consideration. 
  
3. No evidence of bowel obstruction however note is made of 
marked fecal 
loading. 

EKG: QTc 444 on ___ man with refractory AML-M5, status post induction 
with 7+3 and re-induction with HiDAC with admissions complicated 
by Nocardia pneumonia, questionable Aspergillus pneumonia who 
presented with dyspnea.
.
# DYSPNEA - Patient with history of nocardia pneumonia isolated 
from lung biopsy in a prior admission. Patient was discharged on 
Bactrim/moxifloxacin, but the moxifloxacin was stopped as 
outpatient. Patient now came with severe dyspnea desating to low 
___ and required high-oxygen therapy with nasal canula and face 
mask, but still going down to low ___ with activity. CT showed 
worsening pulmonary infiltrates, no signs of COPD or PE. Patient 
had negative induced sputum and bronchoscopy (cytology, stains 
and cultures). Biopsy was not performed since patient was 
considered with refractory disease and prior biopsy that grew 
nocardia. Patient was originally treated with 
Bactrim/moxifloxacin without improvement. Then, based on prior 
cultures was switched to clarithromycin/amikacin and improved by 
CT and O2 requirements went down up to 4 L NC (95%) and going up 
to 87-88% with activity. Since prior discharge patient has been 
covered for aspergillus with voriconazole. Patient required 
After discussing with infectious disease patient will need 
continuous therapy with amikacin / clarithromycin / voriconazole 
for indeterminate period of time. Infectious disease at the 
___ will be following for infection. Patient will need weekly 
voriconazole/amikacin trough. Please fax results to Dr. ___ 
___: ___, Fax: ___. Patient will 
also need every other week EKG since voriconazole/clarithromycin 
can prolong QT (last QTc 444).

.
ACUTE MYELOGENOUS LEUKEMIA - Patient with AML-M5 which has 
failed 7+3 and HiDAC therapies in the past. Patient was during 
admission with persistent blasts and high WBC count (~12,000). 
He was treated with hydroxyurea, but became neutropenic and 
dropped WBC up to 2,000, so treatment was stopped. Patient had 
worsening lymphadenopathy on physical exam and CT scan of chest 
and abdomen. FNA was performed and was found to have AML 
infiltration in lymph nodes. Biopsy was not done because it was 
considered very high risk with his breathing status. Patient was 
started on levalidomide to prevent further progression 
understanding that the data in this area is extremely scarce and 
anecdotal (Day 1 = ___. Since patient has active blast and 
active disease despite chemotherapy was not considered a 
transplant candidate. Last WBC 2,500 with ANC 500 and 28% 
blasts. Since re-starting revlimid patient has been complaining 
of dry mouth and congested sinuses. Normal physical exam and 
being treated symptomatically with pseudoephedrine and menthol. 
During hospitalization patient required occasional RBC 
transfusions.

.
CLOSTRIDIUM DIFFICILE COLITIS - His previous hospital course was 
complicated by C. Diff colitis and he was taking PO vancomycin 
on admission.  This medication was continued and when patient 
improving therapy was stopped. Patient was >1 week symptom free 
despite broad-spectrum antibiotics.

.
ABDOMINAL PAIN - He had some abdominal pain on ___.  An 
abdominal plain film showed no evidence of ileus or obstruction. 
CT scans of abdomen only show huge lymphadenopathy, which may be 
compatible with AML infiltration per FNA (see above). No signs 
of obstruction, but there was always a lot of stool in colon. 
Patient was treated symptomatically with standing morphine SR 15 
mg BID and with morphine ___ (liquid to avoid confusion with 
pills) 20 mg q2 Horus PRN. Patient needing 1 dose PRN daily upon 
discharge. Patient was discharged moving his bowels daily, with 
standing senna/Colace despite opioid therapy.

.
ACUTE RENAL FAILURE - Patient with a creatinine of 1.1 upon 
admission from baseline of 0.6. Patient was found in pre-renal 
renal failure and improved with hydration. He has been stable 
since then.

.
# FEN - Neutropenic diet.
.
# PPX - SQ heparin, colace, regular diet
.
# CODE - DNR/DNI corroborated by Dr. ___.

.
# DISPO - Patient discharged home with O2 and ___ for line care 
and amikacin and follow up with Heme-onc. Extensive family 
meetings were done prior to discharged (with wife and son).
 
___ on Admission:
1. Atenolol 25 mg Tablet Sig: One (1) Tablet PO DAILY 
2. Voriconazole 200 mg Tablet Sig: 1.5 Tablets PO Q12H 
3. Omeprazole 40 mg Capsule, Delayed Release(E.C.) Sig: One (1) 
Capsule, Delayed Release(E.C.) PO twice a day.  
4. Zolpidem 5 mg Tablet Sig: One (1) Tablet PO HS as needed for 
insomnia.
Disp:*30 Tablet(s)* Refills:*0*
5. Lorazepam 0.5 mg Tablet Sig: One (1) Tablet PO three times a 
day as needed for anxiety.
Disp:*60 Tablet(s)* Refills:*0*
6. Sodium Chloride 0.65 % Aerosol, Spray Sig: Three (3) Spray 
Nasal TID (3 times a day).  
7. Trimethoprim-Sulfamethoxazole 80-400 mg Tablet Sig: One (1) 
Tablet PO every six (6) hours.
Disp:*120 Tablet(s)* Refills:*1*
8. Vancomycin 125 mg Capsule Sig: One (1) Capsule PO Q6H (every 
6 hours).
Disp:*120 Capsule(s)* Refills:*1*
9. Benzonatate 100 mg Capsule Sig: One (1) Capsule PO twice a 
day.
 
Discharge Medications:
1. Benzonatate 100 mg Capsule Sig: One (1) Capsule PO BID (2 
times a day).
Disp:*60 Capsule(s)* Refills:*2*
2. Omeprazole 20 mg Capsule, Delayed Release(E.C.) Sig: One (1) 
Capsule, Delayed Release(E.C.) PO BID (2 times a day).
Disp:*60 Capsule, Delayed Release(E.C.)(s)* Refills:*2*
3. Voriconazole 50 mg Tablet Sig: Six (6) Tablet PO Q12H (every 
12 hours).
Disp:*360 Tablet(s)* Refills:*2*
4. Amikacin 250 mg/mL Solution Sig: One (1)  Injection Q24H 
(every 24 hours).
Disp:*30 Solutions* Refills:*2*
5. Clarithromycin 250 mg Tablet Sig: Two (2) Tablet PO BID (2 
times a day).
Disp:*120 Tablet(s)* Refills:*2*
6. Acetaminophen 325 mg Tablet Sig: One (1) Tablet PO Q6H (every 
6 hours) as needed for fever.  
7. Guaifenesin 100 mg/5 mL Syrup Sig: ___ MLs PO Q6H (every 6 
hours) as needed for cough.
Disp:*300 ML(s)* Refills:*2*
8. Sodium Chloride 0.65 % Aerosol, Spray Sig: ___ Sprays Nasal 
TID (3 times a day) as needed.
Disp:*1 Spray Bottle* Refills:*2*
9. Senna 8.6 mg Tablet Sig: One (1) Tablet PO BID (2 times a 
day).
Disp:*60 Tablet(s)* Refills:*2*
10. Alum-Mag Hydroxide-Simeth 200-200-20 mg/5 mL Suspension Sig: 
___ MLs PO QID (4 times a day) as needed. ML(s) 
11. Ipratropium Bromide 0.02 % Solution Sig: One (1)  Inhalation 
Q6H (every 6 hours).
Disp:*2 Inhalers* Refills:*2*
12. Zolpidem 5 mg Tablet Sig: One (1) Tablet PO HS (at bedtime) 
as needed.
Disp:*20 Tablet(s)* Refills:*0*
13. Albuterol 90 mcg/Actuation Aerosol Sig: Two (2) Inhalations 
Inhalation every six (6) hours as needed.
Disp:*2 Aerosol inhalers* Refills:*2*
14. Lorazepam 0.5 mg Tablet Sig: One (1) Tablet PO Q8H (every 8 
hours) as needed for Pain / Nausea: Please do not give if 
somnolent. Cannot drive or do high risk activities with this 
medication. Has sedative effects.
Disp:*90 Tablet(s)* Refills:*0*
15. Lenalidomide 25 mg Capsule Sig: One (1) Capsule PO DAILY 
(Daily).  
16. Docusate Sodium 100 mg Capsule Sig: One (1) Capsule PO TID 
(3 times a day).
Disp:*90 Capsule(s)* Refills:*2*
17. Morphine 15 mg Tablet Sustained Release Sig: One (1) Tablet 
Sustained Release PO Q12H (every 12 hours).
Disp:*60 Tablet Sustained Release(s)* Refills:*2*
18. Menthol-Cetylpyridinium 3 mg Lozenge Sig: One (1) Lozenge 
Mucous membrane Q4H (every 4 hours) as needed.
Disp:*100 Lozenge(s)* Refills:*0*
19. Morphine 10 mg/5 mL Solution Sig: Ten (10) mL PO Q2H (every 
2 hours) as needed for pain: Please do not take more than 4 per 
day. Only for acute flairs.
Disp:*200 mL* Refills:*0*
20. Pseudoephedrine HCl 30 mg Tablet Sig: One (1) Tablet PO Q6H 
(every 6 hours) as needed.
Disp:*30 Tablet(s)* Refills:*0*
21. Oxymetazoline 0.05 % Aerosol, Spray Sig: One (1) Spray Nasal 
BID (2 times a day) as needed for 3 days.
Disp:*2 Spray bottles* Refills:*0*
22. Heparin, Porcine (PF) 10 unit/mL Syringe Sig: One (1) ML 
Intravenous DAILY (Daily) as needed for line flush.
Disp:*120 Syringes* Refills:*0*
23. Heparin Flush 10 unit/mL Kit Sig: Three (3) mL Intravenous 
once a day.
Disp:*30 Syringes* Refills:*2*
24. Saline Flush 0.9 % Syringe Sig: One (1)  Injection once a 
day.
Disp:*30 Syringes* Refills:*2*
25. Oxygen
Oxygen 4 L nasal canula with O2 goal of 90-94%
26. Line care
Please do line care per protocol

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Primary Diagnosis
Refractory Acute Myelogenous Leukemia (M5) on Revlimid
Pulmonary multi-drug resistant nocardia
Pulmonary aspergillosis
.
Secondary Diagnosis
1)CAD s/p angioplasty in ___  
2)MDS since ___ s/p PO vancomycin
5)Nocardia, Aspergillous Pneumonia
6)Epistaxis 

 
Discharge Condition:
On stable oxygen requirements on 3L, with chronic abdominal pain 
due to refractory AML, tolerating PO, deambulating with O2.

 
Discharge Instructions:
You were seen at ___ for shorness of breath and fever and were 
found to have a recurrence of your lung infection. You had a 
bronchoscopy done, which was unchanged and we were unable to 
isolate the bacteria and fungi this time. You were treated with 
antibiotics for both microbes and improved. Your oxygen 
requirements have been stable and they will be improving as your 
pneumonia improves. However, you will need long term antibiotics 
(amikacin/clarithromycin/voriconazole) with follow up with 
infectious disease doctors at the ___. You will need weekly 
labs.
.
Your cancer (AML) has been stable and we can still see it in 
your blood and lymph nodes. You are currently on Revlimid for 
that and you will be followed by Dr. ___.
.
You will also be followed by infectious disease.
 
Followup Instructions:
___